US08404677B2
The title compound; (MS m/z: 372.2 (M+H)+) was prepared as described in example 1d by starting from ethyl 4-chloro-6-methyl-2-(methyl thio)pyrimidine-5-carboxylate (1.2 g, 4.86 mmol) and 3-(trifluoromethyl)aniline (611 uL, 4.86 mmol) and continuing until the reaction yielded dark brown solids (ethyl 4-methyl-2-(methylthio)-6-(3-(trifluoromethyl)phenylamino)pyrimidine-5-carboxylate (1.76 g, 97.4%)).

reactant | ethyl 4-chloro-6-methyl-2-(methyl thio)pyrimidine-5-carboxylate | 4.86 mmol, 1.2 g | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
reactant | 3-(trifluoromethyl)aniline | 4.86 mmol, 611 uL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
product | ethyl 4-methyl-2-(methylthio)-6-(3-(trifluoromethyl)phenylamino)pyrimidine-5-carboxylate | 1.76 g, 97.4% | CC1=NC(=NC(=C1C(=O)OCC)NC1=CC(=CC=C1)C(F)(F)F)SC | C16H16F3N3O2S
